US08119633B2
Methyl 2-(3-oxo-1,2,3,4-tetrahydroquinoxalin-2-yl)acetate
Orthophenylenediamine (10 g, 92.4 mmol) and diethyl maleate (45 g, 646.8 mmol) were refluxed for 75 h in propanol. The solvent was removed using a rotary evaporator and the residue was purified by column chromatography (ethyl acetate/hexane 1:1).

reactant | Orthophenylenediamine | 92.4 mmol, 10 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | diethyl maleate | 646.8 mmol, 45 g | C(\C=C/C(=O)OCC)(=O)OCC | C8H12O4
solvent | propanol | C(CC)O | C3H8O
product | Methyl 2-(3-oxo-1,2,3,4-tetrahydroquinoxalin-2-yl)acetate | O=C1C(NC2=CC=CC=C2N1)CC(=O)OC | C11H12N2O3
